US04140785
A solution of 14.2 g. of nicotinic acid chloride in 100 ml. of methylene chloride was added to a stirred solution of 0.1 mole of 1-methyl-1H-(1)benzothieno-[3,2-c]pyrazol-3-amine in 400 ml. of methylene chloride containing 10 ml. of pyridine. The reaction mixture was stirred overnight at room temperature and the precipitate which formed was collected by filtration. Recrystallization from glacial acetic acid/concentrated hydrochloric acid gave N-(1-methyl-1H-(1)benzothieno[3,2-c]pyrazol-3-yl)-3-pyridinecarboxamide hydrochloride, m.p. 298°-300° C.

reactant | nicotinic acid chloride | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | 1-methyl-1H-(1)benzothieno-[3,2-c]pyrazol-3-amine | 0.1 mole | CN1N=C(C2=C1C1=C(S2)C=CC=C1)N | C10H9N3S
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-(1-methyl-1H-(1)benzothieno[3,2-c]pyrazol-3-yl)-3-pyridinecarboxamide hydrochloride | Cl.CN1N=C(C2=C1C1=C(S2)C=CC=C1)NC(=O)C=1C=NC=CC1 | InChI=1S/C16H12N4OS.ClH/c1-20-13-11-6-2-3-7-12(11)22-14(13)15(19-20)18-16(21)10-5-4-8-17-9-10;/h2-9H,1H3,(H,18,19,21);1H
